US07994196B2
3-Amino-2-methylbenzotrifluoride (Aldrich Co., 5.25 g) was added to a mixture of concentrated hydrochloric acid (20 ml) and water (20 ml) and, under ice-cooling, sodium nitrite (3.31 g) dissolved in water (10 ml) was added dropwise thereto. The mixture was stirred at 0° C. for 1 hr. Potassium iodide (9.95 g) dissolved in water (20 ml) was added to the reaction mixture. The mixture was stirred at −4° C. for 2 hr. The mixture was adjusted to pH 11 or above with a 6N aqueous sodium hydroxide solution, and an aqueous thiosodium sulfate solution was added thereto. The mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried. The solvent was evaporated under reduced pressure to give a brown oil. The oil was purified by silica gel column chromatography (elution solvent: hexane) to give 3-iodo-2-methylbenzotrifluoride (6.28 g, yield 73%).

reactant | 3-Amino-2-methylbenzotrifluoride | 5.25 g | NC=1C(=C(C=CC1)C(F)(F)F)C | C8H8F3N
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 3.31 g | N(=O)[O-].[Na+]
reactant | Potassium iodide | 9.95 g | [I-].[K+]
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-iodo-2-methylbenzotrifluoride | 6.28 g, yield 73% | IC=1C(=C(C=CC1)C(F)(F)F)C | C8H6F3I
